US04052341
Into a one-liter stainless steel autoclave was charged 350 g (1.7 moles) of 3-methyl-5-(2,2,3-trimethylcyclopent-3-en-1-yl)pent-3-en-2-one, 26.3 g (7.5 wgt-%) of copper chromite, 0.1 g (0.03 wgt-%) of potassium hydroxide and 250 ml of sec.-butyl alcohol. The mixture was stirred and heated to 160° C under 300 psi hydrogen pressure and was hydrogenated until the hydrogen uptake ceased. The mixture was cooled to ambient temperature. The autoclave was vented and then the reaction mixture removed and filtered through a thin pad of Filter-cel®. The solvent was removed from the filtrate by distillation to a pot temperature of 75° C at 10-15 mm. The residual viscous oil was fractionally distilled to give 3-methyl-5-(2,2,3-trimethylcyclopent-3-en-1-yl)pentan-2-ol (a mixture of diastereomers). Yield 310 g (87% theory); bp 103°-106° C (1.0 mm); nD20 1.4730; mol wt. 210 (ms); nmr, 0.5δ, 0.8, 0.9 and 1.0 (6H, 4s, geminal dimethyl groups of the various diastereomers in the mixture), 1.0-1.1 (3H, d, buried under the CH3 singlets), 1.12 and 1.15 (3H, 2d, J=6.5 Hz, carbinol methyl groups of the various diastereomers in the mixture), 1.2-1.5 (6H, broad complex), 1.6 (3H, broad s, olefinic CH3), 1.7 (1H, s, hydroxyl H/exchanged by D2O, 1.8-2.4 (2H, broad complex, allylic methylene), 3.7 (1H, broad multiplet, carbinyl H), 5.2 (1H, broad multiplet, olefinic H); ir, 3360, 3040, 790 cm-1.

reactant | 3-methyl-5-(2,2,3-trimethylcyclopent-3-en-1-yl)pent-3-en-2-one | 1.7 moles, 350 g | CC(C(C)=O)=CCC1C(C(=CC1)C)(C)C | C14H22O
reactant | potassium hydroxide | 0.1 g | [OH-].[K+]
reactant | hydrogen | [H][H] | H2
catalyst | copper chromite | 26.3 g | [Cr](=O)([O-])[O-].[Cu+2]
solvent | sec.-butyl alcohol | 250 ml | C(C)(CC)O | C4H10O
product | 3-methyl-5-(2,2,3-trimethylcyclopent-3-en-1-yl)pentan-2-ol | CC(C(C)O)CCC1C(C(=CC1)C)(C)C | C14H26O
